US05527905
2(b) 314 μl of 1,8-diaza[5.4.0]-7-undecene were added to a solution of 620 mg of diethyl 2-(3-bromopropionamido)malonate (prepared as described above) dissolved in methylene chloride, and the mixture was stirred at room temperature for 3 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, poured into water and then extracted with diethyl ether. The extract was washed with 5% w/v aqueous hydrochloric acid, with a 5% w/v aqueous solution of sodium bicarbonate and with water, in that order, and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, to give a crude product. This was purified by column chromatography through silica gel, eluted with a 2:1 by volume mixture of cyclohexane and ethyl acetate, to give 171 mg of diethyl 2-oxopyrrolidine-5,5-dicarboxylate.

reactant | 7-undecene | CCCCCCC=CCCC | C11H22
reactant | diethyl 2-(3-bromopropionamido)malonate | 620 mg | BrCCC(=O)NC(C(=O)OCC)C(=O)OCC | C10H16BrNO5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | diethyl 2-oxopyrrolidine-5,5-dicarboxylate | 171 mg | O=C1NC(CC1)(C(=O)OCC)C(=O)OCC | C10H15NO5
